US04103085
2-Furaneglyoxylic Acid
The 24.5 g. of crude 2-furoylcyanide was mixed with 160 ml. concentrated hydrochloric acid at 25° C. with intermittent stirring. The reaction was stored for 24 hours at 25° C. and diluted with 80 ml. of water. The reaction was stirred for 5 minutes and filtered. The filtrate was saturated with sodium chloride and extracted with 5 × 120 ml. of 1:1 ether-ethyl acetate solution. The extracts were combined, dried over anhydrous magnesium sulfate and evaporated at 30° C. (15 mm.) to give a brownish-orange solid. The solid was dissolved in methanol, treated with charcoal and evaporated under reduced pressure (15 mm.) to dryness to yield 17 g. of the acid.

reactant | 2-furoylcyanide | O1C(=CC=C1)C(=O)C#N | C6H3NO2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
reactant | charcoal | C | CH4
reactant | methanol | CO | CH4O
product | 2-Furaneglyoxylic Acid | O1C(=CC=C1)C(C(=O)O)=O | C6H4O4
